US07732618B2
b.) {5-[(4-Fluoro-benzenesulfonyl)-(3-phenyl-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[(4-Fluoro-benzenesulfonyl)-(3-phenyl-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.62 (m, 2H), 7.41 (m, 2H), 7.25 (m, 3H), 7.11 (d, 3H), 6.82 (m, 1H), 4.58 (s, 2H), 3.62 (t, 2H), 2.71 (t, 2H), 2.60 (m, 2H), 1.72 (m, 2H), 1.58 (m, 2H), 0.99 (t, 3H). MS calculated for C27H28FN3O4S—H: 508, observed: 508.

reactant | {5-[(4-Fluoro-benzenesulfonyl)-(3-phenyl-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(CCCC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)F)CCC)=O | C31H36FN3O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[(4-Fluoro-benzenesulfonyl)-(3-phenyl-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | FC1=CC=C(C=C1)S(=O)(=O)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)CCCC1=CC=CC=C1 | C27H28FN3O4S
